US04005084
A solution of 27 g of N-[2-hydroxy-3-[2-(2-thenyl)phenoxy]propyl]-N-benzyl-chloroacetamide in 100 ml of methanol was added dropwise to a solution of 2.3 g of metallic sodium in 200 ml of methanol with stirring at room temperature. The resulting mixture was stirred under reflux for 3 hours. Then the methanol was distilled off under reduced pressure, and the residue was extracted with 200 ml of benzene. The benzene layer was washed with water and dried over anhydrous magnesium sulfate, and then the benzene was distilled off to give 26 g of crude product as an oil. The oil was purified by column chromatography using a column of silica gel and chloroform as an eluent. The fractions containing the objective product were concentrated to give 23 g of 4-benzyl-2-[2-(2-thenyl)phenoxymethyl]morpholin-5-one as colorless crystals, melting at 97°-99° C.

reactant | N-[2-hydroxy-3-[2-(2-thenyl)phenoxy]propyl]-N-benzyl-chloroacetamide | 27 g | OC(CN(C(CCl)=O)CC1=CC=CC=C1)COC1=C(C=CC=C1)CC1=CC=CS1 | C23H24ClNO3S
reactant | sodium | 2.3 g | [Na] | Na
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 4-benzyl-2-[2-(2-thenyl)phenoxymethyl]morpholin-5-one | 23 g | C(C1=CC=CC=C1)N1CC(OCC1=O)COC1=C(C=CC=C1)CC1=CC=CS1 | C23H23NO3S
